US06133202
Preparation of 2-{1-[2-(4-chlorophenoxy)propyloximino]butyl}-5-tetrahydrothiopyran-3-ylcyclohexane-1,3-dione calcium salt
A suspension of calcium hydroxide (0.2 g) in 30 ml of methanol was added to a solution of 2-{1-[2-(4-chlorophenoxy)propyloximino]butyl}-5-tetrahydrothiopyran-3-ylcyclohexane-1,3-dione (2.5 g) in 80 ml of methanol with vigorous stirring. The mixture was subsequently stirred for 5 hours at room temperature, whereupon the solvent was removed in vacuo. Yield: 2.6 g of calcium salt.

reactant | calcium hydroxide | 0.2 g | [OH-].[Ca+2].[OH-]
reactant | 2-{1-[2-(4-chlorophenoxy)propyloximino]butyl}-5-tetrahydrothiopyran-3-ylcyclohexane-1,3-dione | 2.5 g | ClC1=CC=C(OC(CON=C(CCC)C2C(CC(CC2=O)C2CSCCC2)=O)C)C=C1 | C24H32ClNO4S
solvent | methanol | 30 ml | CO | CH4O
solvent | methanol | 80 ml | CO | CH4O
product | 2-{1-[2-(4-chlorophenoxy)propyloximino]butyl}-5-tetrahydrothiopyran-3-ylcyclohexane-1,3-dione calcium salt | [Ca].ClC1=CC=C(OC(CON=C(CCC)C2C(CC(CC2=O)C2CSCCC2)=O)C)C=C1 | InChI=1S/C24H32ClNO4S.Ca/c1-3-5-21(26-29-14-16(2)30-20-9-7-19(25)8-10-20)24-22(27)12-18(13-23(24)28)17-6-4-11-31-15-17;/h7-10,16-18,24H,3-6,11-15H2,1-2H3;
